US07411072B2
2-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-pyridine
Following procedures essentially as described in Example 225 and using 2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylboronic acid (100 mg, 0.307 mmol) and 2-chloropyridine (52 mg, 0.460 mmol),provides the title compound. Purify further via silica gel chromatography to obtain 14.7 mg (13%) of material that is 84% pure by HPLC. MS (S) 360 (M+H).

reactant | 2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylboronic acid | 0.307 mmol, 100 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=C(C=CC=C3)B(O)O | C22H19BO2
reactant | 2-chloropyridine | 0.460 mmol, 52 mg | ClC1=NC=CC=C1 | C5H4ClN
product | 2-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-pyridine | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=C(C=CC=C3)C3=NC=CC=C3 | C27H21N
